US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (3-chloro-phenyl)-amide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 3-Chloroaniline instead of 3-chloroaniline to yield the final compound as a white solid, MS (ISP): m/e=342.0, 344.1 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 3-Chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (3-chloro-phenyl)-amide | ClC=1C=C(C=CC1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C18H13ClFN3O
